*74182 multiplier circuit implementation

.INCLUDE '32nm_HP.pm'
.include inv.sub
.include and_2.sub
.include and_3.sub
.include and_4.sub
.include nand_2.sub
.include nand_3.sub
.include nand_4.sub
.include nor_2.sub
.include nor_3.sub
.include nor_4.sub
.include or_4.sub

.subckt multiplier P0 P1 P2 P3 G0 G1 G2 G3 Cn P_out G_out Cn_Z_out Cn_Y_out Cn_X_out Cn_out n2_out n3_out n4_out n5_out n6_out n7_out n8_out n9_out n10_out n11_out n12_out n13_out n14_out vdd gnd

x0 Cn Cn_out vdd gnd inv
x1 P0 P1 P2 P3 P_out vdd gnd or_4

x2 G0 G1 G2 G3 n2_out vdd gnd and_4
x3 P1 G3 G2 G1 n3_out vdd gnd and_4
x4 P2 G3 G2 n4_out vdd gnd and_3
x5 P3 G3 n5_out vdd gnd and_2

x6 G2 G1 G0 Cn_out n6_out vdd gnd and_4
x7 P0 G2 G1 G0 n7_out vdd gnd and_4
x8 P1 G2 G1 n8_out vdd gnd and_3
x9 P2 G2 n9_out vdd gnd and_2

x10 G1 G0 Cn_out n10_out vdd gnd and_3
x11 P0 G1 G0 n11_out vdd gnd and_3
x12 P1 G1 n12_out vdd gnd and_2

x13 G0 Cn_out n13_out vdd gnd and_2
x14 P0 G0 n14_out vdd gnd and_2

x15 n2_out n3_out n4_out n5_out G_out vdd gnd or_4
x16 n6_out n7_out n8_out n9_out Cn_Z_out vdd gnd nor_4
x17 n10_out n11_out n12_out Cn_Y_out vdd gnd nor_3
x18 n13_out n14_out Cn_X_out vdd gnd nor_2


.ends multiplier




.PARAM supply = 1.1
.global gnd
.temp 25

Vdd node_vdd gnd 'SUPPLY'

V_P0 P0 gnd 0
V_P1 P1 gnd 0
V_P2 P2 gnd 0
V_P3 P3 gnd 0
V_G0 G0 gnd 0
V_G1 G1 gnd 0
V_G2 G2 gnd 0
V_G3 G3 gnd 0
V_Cn Cn gnd 0

x1 P0 P1 P2 P3 G0 G1 G2 G3 Cn P_out G_out Cn_Z_out Cn_Y_out Cn_X_out Cn_out n2_out n3_out n4_out n5_out n6_out n7_out n8_out n9_out n10_out n11_out n12_out n13_out n14_out node_vdd gnd multiplier


.control

op

echo "Inverter"
print v(Cn)
echo " "
echo "OR 4"
print v(P0) v(P1) V(P2) V(P3)

echo " "
echo "AND 4"
print V(G0) V(G1) V(G2) V(G3)
echo ""
echo "AND 4"
print V(P1) V(G3) V(G2) V(G1)
echo ""
echo "AND 3"
print V(P2) V(G3) V(G2)
echo ""
echo "AND 2"
print V(P3) V(G3)

echo " "
echo "AND 4"
print V(G2) V(G1) V(G0) V(Cn_out)
echo ""
echo "AND 4"
print V(P0) V(G2) V(G1) V(G0)
echo ""
echo "AND 3"
print V(P1) V(G2) V(G1)
echo ""
echo "AND 2"
print V(P2) V(G2)

echo ""
echo "AND 3"
print V(G1) V(G0) V(Cn_out)
echo ""
echo "AND 3"
print V(P0) V(G1) V(G0)
echo ""
echo "AND 2"
print V(P1) V(G1)

echo ""
echo "AND 2"
print V(G0) V(Cn_out)
echo ""
echo "AND 2"
print V(P0) V(G0)

echo " "
echo "OR 4"
print v(n2_out) v(n3_out) V(n4_out) V(n5_out)
echo " "
echo "NOR 4"
print v(n6_out) v(n7_out) V(n8_out) V(n9_out)
echo " "
echo "NOR 3"
print v(n10_out) v(n11_out) V(n12_out)
echo " "
echo "NOR 2"
print v(n13_out) v(n14_out)

print I(Vdd) I(V_P0) I(V_P1) I(V_P2) I(V_P3) I(V_G0) I(V_G1) I(V_G2) I(V_G3) I(V_Cn)

.end
.endc
